US04659718
A solution of phosgene (45 g) in toluene (160 ml) was added during 20 minutes to a stirred solution of 2-amino-4,5-difluorobenzoic acid (26 g) in aqueous sodium carbonate (20.7 g anhydrous sodium carbonate in 350 ml water), keeping the temperature below 40°. The mixture was stirred at room temperature for 15 hours. The solid product was collected by filtration, washed with water and dried to give the novel compound 6,7-difluoro-1H-3,1-benzoxazine-2,4-dione, m.p. 223°-226° (dec.).

reactant | phosgene | 45 g | C(=O)(Cl)Cl | CCl2O
reactant | 2-amino-4,5-difluorobenzoic acid | 26 g | NC1=C(C(=O)O)C=C(C(=C1)F)F | C7H5F2NO2
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
solvent | sodium carbonate | 350 ml, 20.7 g | C([O-])([O-])=O.[Na+].[Na+]
product | 6,7-difluoro-1H-3,1-benzoxazine-2,4-dione | FC=1C(=CC2=C(C(OC(N2)=O)=O)C1)F | C8H3F2NO3
